US09227976B2
Step 6: 1-[2-[4-chloro-3-(3-fluorophenyl)-5-phenyl-pyrazolo[3,4-c]pyridazin-1-yl]ethyl]pyrrolidin-2-one (Compound IIr)
Compound IIr was synthesized from 4-chloro-3-(3-fluorophenyl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazine and 1-(2-hydroxyethyl)pyrrolidin-2-one following the general procedure for the Mitsunobu reaction as described.

reactant | 4-chloro-3-(3-fluorophenyl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2C2=CC(=CC=C2)F | C17H10ClFN4
reactant | 1-(2-hydroxyethyl)pyrrolidin-2-one | OCCN1C(CCC1)=O | C6H11NO2
product | 1-[2-[4-chloro-3-(3-fluorophenyl)-5-phenyl-pyrazolo[3,4-c]pyridazin-1-yl]ethyl]pyrrolidin-2-one | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC(=CC=C2)F)CCN2C(CCC2)=O | C23H19ClFN5O
